US07547690B2
A stirred suspension of benzyl 3-methyl-2,4-dioxo-3,9-diazabicyclo[3.3.1]nonane-9-carboxylate (742 mg, 2.454 mmol) and 10% Pd—C (100 mg) in ethyl acetate (40 ml) was hydrogenated under balloon pressure of hydrogen overnight. The suspension was filtered to remove the catalyst and the filtrate was evaporated to dryness to afford 3-methyl-3,9-diazabicyclo[3.3.1]nonane-2,4-dione as a white solid (377 mg). MS: m/e 169 (MH+).

reactant | benzyl 3-methyl-2,4-dioxo-3,9-diazabicyclo[3.3.1]nonane-9-carboxylate | 2.454 mmol, 742 mg | CN1C(C2CCCC(C1=O)N2C(=O)OCC2=CC=CC=C2)=O | C16H18N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | 3-methyl-3,9-diazabicyclo[3.3.1]nonane-2,4-dione | 377 mg | CN1C(C2CCCC(C1=O)N2)=O | C8H12N2O2
